US06372941B1
The method which comprises derivatizing a β-hydroxy-α-aminocarboxylic acid into the corresponding β-hydroxy-α-aminocarboxylic acid ester, then halogenating the hydroxyl group thereof with a phosphorus halide to give the corresponding β-halogeno-α-aminocarboxylic acid ester, and hydrolyzing the ester group using a hydrohalogenic acid to give the objective β-halogeno-α-aminocarboxylic acid. Specifically, serine is derivatized into serine methyl ester hydrochloride, the ester salt is then treated with phosphorus pentachloride to give α-amino-β-chloropropionic acid methyl ester hydrochloride, which is further hydrolyzed with hydrochloric acid. The resulting α-amino-β-chloropropionic acid hydrochloride is isolated by concentrating the reaction mixture to dryness, followed by crystallization of the residue from a mixture of 1-propanol and hydrochloric acid [e.g. CHIRALITY, 8:197-200 (1996)]; and

reactant | serine | N[C@@H](CO)C(=O)O | C3H7NO3
reactant | serine methyl ester hydrochloride | Cl.COC([C@@H](N)CO)=O
reactant | phosphorus pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | α-amino-β-chloropropionic acid methyl ester hydrochloride | Cl.COC(C(CCl)N)=O | InChI=1S/C4H8ClNO2.ClH/c1-8-4(7)3(6)2-5;/h3H,2,6H2,1H3;1H
